US06818663B2
D. 1-(4-Ethyl-3-fluoro-phenyl)-ethanone
To a stirred mixture of (4-ethyl-3-fluoro-phenylethynyl)-trimethyl-silane (1.43 g, 6.5 mmol), HgCl2 (250 mg, 0.92 mmol) in aqueous tetrahydrofuran (tetrahydrofuran, 10 mL, H2O, 3 mL), concentrated sulfuric acid (98%, 0.70 mL) was added and the mixture stirred for 6 hours. The mixture was poured into water (50 mL) and extracted with ether (3×20 mL). Removal of solvent gave a solid that was chromatographed (20% thyl acetate/hexanes) to give the desired product. 560 mg, 52%.

reactant | (4-ethyl-3-fluoro-phenylethynyl)-trimethyl-silane | 6.5 mmol, 1.43 g | C(C)C1=C(C=C(C=C1)C#C[Si](C)(C)C)F | C13H17FSi
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sulfuric acid | 0.70 mL | S(O)(O)(=O)=O | H2O4S
catalyst | HgCl2 | 0.92 mmol, 250 mg | Cl[Hg]Cl
product | 1-(4-Ethyl-3-fluoro-phenyl)-ethanone | C(C)C1=C(C=C(C=C1)C(C)=O)F | C10H11FO
